US06150373
A solution of 50 mg (0.07 mmol) of 3-(2,4-dichlorophenyl)-7-[4-[2-(diethylamino) ethoxy]anilino]-3,4-dihydro-1-[3-(2-methanesulfonyloxyethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one in 5 ml of dimethylformamide was treated with 17 mg (0.09 mmol) of potassium phthalimide and the mixture was heated at 90° C. for 1 hour. The mixture was cooled and evaporated. The residue was partitioned between 20 ml of ethyl acetate and 20 ml of water. The organic phase was dried over magnesium sulfate and evaporated to yield 50 mg (95%) of 3-(2,4-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-[3-(2-phthalimidoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid. [Mass spectrum (ESI) MH+ =750].

reactant | 3-(2,4-dichlorophenyl)-7-[4-[2-(diethylamino) ethoxy]anilino]-3,4-dihydro-1-[3-(2-methanesulfonyloxyethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.07 mmol, 50 mg | ClC1=C(C=CC(=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(CC)CC)C1=CC(=CC=C1)CCOS(=O)(=O)C)=O | C33H36Cl2N6O5S
reactant | potassium phthalimide | 0.09 mmol, 17 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(2,4-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-[3-(2-phthalimidoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 50 mg, 95% | ClC1=C(C=CC(=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(CC)CC)C1=CC(=CC=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C40H37Cl2N7O4
